US06297264B1
DMF—dimethylformamide;
THF—tetrahydrofuran; DME—dimethoxyethane; EtOAc—ethyl acetate; Et2O—diethylether; RT—room temperature; LDA—lithium diisopropylamide; CH2Cl2—dichloro-methane; tic—thin layer chromatography; BuLi—butyllithium

reactant | THF tetrahydrofuran | C1CCOC1.O1CCCC1 | 2C4H8O
reactant | DME dimethoxyethane | COCCOC.C(OC)COC | 2C4H10O2
reactant | LDA lithium diisopropylamide | [Li+].CC(C)[N-]C(C)C.C(C)(C)[N-]C(C)C.[Li+]
reactant | BuLi butyllithium | [Li]CCCC.C(CCC)[Li]
solvent | CH2Cl2 dichloro-methane | C(Cl)Cl.ClCCl | 2CH2Cl2
solvent | Et2O diethylether | CCOCC.C(C)OCC | 2C4H10O
solvent | EtOAc ethyl acetate | CCOC(=O)C.C(C)(=O)OCC | 2C4H8O2
product | DMF dimethylformamide | CN(C)C=O.CN(C=O)C | 2C3H7NO
